US07700641B2
Synthesis of ethyl(2-oxo-5′,6′,7′,8′-tetrahydrospiro[indole-3,3′-naphtho[2,3-b]furan]-1(2H)-yl)acetate
Following the procedure as described in EXAMPLE 1.45, and making non-critical variations using ethyl[3-(hydroxymethyl)-3-(3-hydroxy-5,6,7,8-tetrahydronaphthalen-2-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate to replace ethyl[3-(6-hydroxy-2,3-dihydro-1H-inden-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate, the title compound was obtained (24% in three steps): 1H NMR (300 MHz, CDCl3) δ 7.29 (td, 1H), 7.19 (d, 1H), 7.07 (t, 1H), 6.79 (d, 1H), 6.66 (s, 1H), 6.51 (s, 1H),), 4.91 (d, 1H), 4.67 (d, 1H), 4.52 (ABq, 2H), 4.24 (q, 2H), 2.77-2.51 (m, 4H), 1.77-1.64 (m, 4H), 1.29 (t, 3H); MS (ES+) m/z 378 (M+1).

reactant | ethyl[3-(hydroxymethyl)-3-(3-hydroxy-5,6,7,8-tetrahydronaphthalen-2-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | C(C)OC(CN1C(C(C2=CC=CC=C12)(C1=CC=2CCCCC2C=C1O)CO)=O)=O | C23H25NO5
reactant | ethyl[3-(6-hydroxy-2,3-dihydro-1H-inden-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | C(C)OC(CN1C(C(C2=CC=CC=C12)(CO)C=1C=C2CCCC2=CC1O)=O)=O | C22H23NO5
product | ethyl(2-oxo-5′,6′,7′,8′-tetrahydrospiro[indole-3,3′-naphtho[2,3-b]furan]-1(2H)-yl)acetate | C(C)OC(CN1C(C2(C3=C(OC2)C=C2CCCCC2=C3)C3=CC=CC=C13)=O)=O | C23H23NO4
